US06743564B2
At 20 to 30° C., 11.4 g of methyl acrylate was added to 10.0 g of 2-methoxyethylamine, which was allowed to stand for 2 hours. Then 15.0 g of acrylonitrile was added to the reaction solution, which was heated at 70° C. for 20 hours. Vacuum concentration yielded methyl N-(2-cyanoethyl)-N-(2-methoxyethyl)-3-aminopropionate.

reactant | methyl acrylate | 11.4 g | C(C=C)(=O)OC | C4H6O2
reactant | 2-methoxyethylamine | 10.0 g | COCCN | C3H9NO
reactant | acrylonitrile | 15.0 g | C(C=C)#N | C3H3N
product | methyl N-(2-cyanoethyl)-N-(2-methoxyethyl)-3-aminopropionate | C(#N)CCN(CCC(=O)OC)CCOC | C10H18N2O3
